US07943607B2
1,1-Dimethylethyl 3-{[(3-[(2-methyl-1,1-dioxido-3,4-dihydro-2H-5,1,2-benzoxathiazepin-7-yl)oxy]-5-{[(1S)-1-methyl-2-(methyloxy)ethyl]oxy}phenyl)carbonyl]amino}-1H-pyrazole-1-carboxylate
1-Chloro-N,N,2-trimethyl-1-propenylamine (0.13 mL, 1.01 mmol) was added to a solution of 3-[(2-methyl-1,1-dioxido-3,4-dihydro-2H-5,1,2-benzoxathiazepin-7-yl)oxy]-5-{[(1S)-1-methyl-2-(methyloxy)ethyl]oxy}benzoic acid (0.22 g, 0.50 mmol) in DCM (8 mL) and stirred for 1 hour. 1,1-Dimethylethyl 3-amino-1H-pyrazole-1-carboxylate (231 mg, 1.26 mmol) then pyridine (0.1 mL, 1.26 mmol) were added and the reaction stirred until the reaction was complete. The reaction mixture was reduced in vacuo and ethyl acetate (50 mL) and water (50 mL) were added. The aqueous layer was further extracted into ethyl acetate (50 mL) and the combined organics washed with water (50 mL), brine (50 mL), dried (MgSO4), filtered and reduced in vacuo to give a golden oil which was chromatographed on silica, eluting with 25-70% ethyl acetate in isohexane then 0-5% methanol in DCM, to give the desired compound as a colourless oil (50 mg).

reactant | 1-Chloro-N,N,2-trimethyl-1-propenylamine | 1.01 mmol, 0.13 mL | ClC(=C(C)C)N(C)C | C6H12ClN
reactant | 3-[(2-methyl-1,1-dioxido-3,4-dihydro-2H-5,1,2-benzoxathiazepin-7-yl)oxy]-5-{[(1S)-1-methyl-2-(methyloxy)ethyl]oxy}benzoic acid | 0.50 mmol, 0.22 g | CN1S(C2=C(OCC1)C=C(C=C2)OC=2C=C(C(=O)O)C=C(C2)O[C@H](COC)C)(=O)=O | C20H23NO8S
reactant | 1,1-Dimethylethyl 3-amino-1H-pyrazole-1-carboxylate | 1.26 mmol, 231 mg | NC1=NN(C=C1)C(=O)OC(C)(C)C | C8H13N3O2
reactant | pyridine | 1.26 mmol, 0.1 mL | N1=CC=CC=C1 | C5H5N
solvent | DCM | 8 mL | C(Cl)Cl | CH2Cl2
solvent | water | 50 mL | O | H2O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 1,1-Dimethylethyl 3-{[(3-[(2-methyl-1,1-dioxido-3,4-dihydro-2H-5,1,2-benzoxathiazepin-7-yl)oxy]-5-{[(1S)-1-methyl-2-(methyloxy)ethyl]oxy}phenyl)carbonyl]amino}-1H-pyrazole-1-carboxylate | 50 mg | CN1S(C2=C(OCC1)C=C(C=C2)OC=2C=C(C=C(C2)O[C@H](COC)C)C(=O)NC2=NN(C=C2)C(=O)OC(C)(C)C)(=O)=O | C28H34N4O9S
